.SUBCKT MRF101AN-BN-SP  1 2 3
* Pin 3 is the reference plane (usually it should be connected to GND)
* Copyright - 2018 NXP B.V.
* 11/29/2018
* Rev 0
* MRF101AN/BN S-Parameters
* Vdd=50V, IDQ=1000mA
* Comment
* freq  magS11  angS11  magS21  angS21  magS12  angS12  magS22  angS22
*
* HZ S MA R 50
* Z1 = 50 Z2 = 50
R1N 1 100 -5.000000e+01
R1P 100 3 100.000000
R2N 2 200 -5.000000e+01
R2P 200 3 100.000000

* S11 FREQ MAG
 G0101 3 100 FREQ {V(100,3)}= MAG
+(  3.000000e+07Hz,  5.642354e-03, -9.970431e+01)
+(  3.500000e+07Hz,  5.721219e-03, -1.054431e+02)
+(  4.000000e+07Hz,  5.854405e-03, -1.097456e+02)
+(  4.500000e+07Hz,  6.028802e-03, -1.142599e+02)
+(  5.000000e+07Hz,  6.178068e-03, -1.180331e+02)
+(  5.500000e+07Hz,  6.352429e-03, -1.214290e+02)
+(  6.000000e+07Hz,  6.497835e-03, -1.244313e+02)
+(  6.500000e+07Hz,  6.638069e-03, -1.272921e+02)
+(  7.000000e+07Hz,  6.808180e-03, -1.297673e+02)
+(  7.500000e+07Hz,  6.952336e-03, -1.321039e+02)
+(  8.000000e+07Hz,  7.079333e-03, -1.342281e+02)
+(  8.500000e+07Hz,  7.176200e-03, -1.360962e+02)
+(  9.000000e+07Hz,  7.321211e-03, -1.380259e+02)
+(  9.500000e+07Hz,  7.452860e-03, -1.397874e+02)
+(  1.000000e+08Hz,  7.573960e-03, -1.414285e+02)
+(  1.050000e+08Hz,  7.658661e-03, -1.430746e+02)
+(  1.100000e+08Hz,  7.721249e-03, -1.443779e+02)
+(  1.150000e+08Hz,  7.815847e-03, -1.458819e+02)
+(  1.200000e+08Hz,  7.882480e-03, -1.473396e+02)
+(  1.250000e+08Hz,  7.981820e-03, -1.486698e+02)
+(  1.300000e+08Hz,  8.064248e-03, -1.499458e+02)
+(  1.350000e+08Hz,  8.129318e-03, -1.507867e+02)
+(  1.400000e+08Hz,  8.194835e-03, -1.520769e+02)
+(  1.450000e+08Hz,  8.278770e-03, -1.532052e+02)
+(  1.500000e+08Hz,  8.419213e-03, -1.542686e+02)
+(  1.550000e+08Hz,  8.387050e-03, -1.552299e+02)
+(  1.600000e+08Hz,  8.464218e-03, -1.563054e+02)
+(  1.650000e+08Hz,  8.553890e-03, -1.571025e+02)
+(  1.700000e+08Hz,  8.536711e-03, -1.577798e+02)
+(  1.750000e+08Hz,  8.637601e-03, -1.584612e+02)
+(  1.800000e+08Hz,  8.680296e-03, -1.593268e+02)
+(  1.850000e+08Hz,  8.753201e-03, -1.601908e+02)
+(  1.900000e+08Hz,  8.754372e-03, -1.611200e+02)
+(  1.950000e+08Hz,  8.792306e-03, -1.615882e+02)
+(  2.000000e+08Hz,  8.824024e-03, -1.623547e+02)
+(  2.050000e+08Hz,  8.852574e-03, -1.632423e+02)
+(  2.100000e+08Hz,  8.919167e-03, -1.640085e+02)
+(  2.150000e+08Hz,  8.920789e-03, -1.647104e+02)
+(  2.200000e+08Hz,  8.966455e-03, -1.652772e+02)
+(  2.250000e+08Hz,  8.942658e-03, -1.661306e+02)
+(  2.300000e+08Hz,  9.002329e-03, -1.667137e+02)
+(  2.350000e+08Hz,  9.036134e-03, -1.675009e+02)
+(  2.400000e+08Hz,  9.104363e-03, -1.680288e+02)
+(  2.450000e+08Hz,  9.105947e-03, -1.686615e+02)
+(  2.500000e+08Hz,  9.126667e-03, -1.695680e+02)
+(  2.550000e+08Hz,  9.134674e-03, -1.699247e+02)
+(  2.600000e+08Hz,  9.236482e-03, -1.705829e+02)
+(  2.650000e+08Hz,  9.222243e-03, -1.712148e+02)
+(  2.700000e+08Hz,  9.238979e-03, -1.716276e+02)
+(  2.750000e+08Hz,  9.263608e-03, -1.724074e+02)
+(  2.800000e+08Hz,  9.244694e-03, -1.724649e+02)
+(  2.850000e+08Hz,  9.280897e-03, -1.733420e+02)
+(  2.900000e+08Hz,  9.304437e-03, -1.737784e+02)
+(  2.950000e+08Hz,  9.306508e-03, -1.743417e+02)
+(  3.000000e+08Hz,  9.296913e-03, -1.747606e+02)
* S12 FREQ MAG
 G0102 3 100 FREQ {V(200,3)}= MAG
+(  3.000000e+07Hz,  5.475530e-05,  2.876056e+01)
+(  3.500000e+07Hz,  6.222852e-05,  1.806557e+01)
+(  4.000000e+07Hz,  5.978916e-05,  1.542064e+01)
+(  4.500000e+07Hz,  5.570359e-05,  1.807520e+01)
+(  5.000000e+07Hz,  5.481443e-05,  1.635237e+01)
+(  5.500000e+07Hz,  5.171879e-05,  1.184840e+01)
+(  6.000000e+07Hz,  5.544835e-05,  1.043386e+01)
+(  6.500000e+07Hz,  5.520846e-05,  9.508026e+00)
+(  7.000000e+07Hz,  4.892535e-05,  1.784506e+01)
+(  7.500000e+07Hz,  4.990875e-05,  1.665264e+01)
+(  8.000000e+07Hz,  5.079086e-05,  1.021655e+01)
+(  8.500000e+07Hz,  4.625631e-05,  2.207633e+01)
+(  9.000000e+07Hz,  4.663018e-05,  7.410336e+00)
+(  9.500000e+07Hz,  3.685454e-05,  9.655295e+00)
+(  1.000000e+08Hz,  4.149476e-05,  3.150042e+01)
+(  1.050000e+08Hz,  3.886196e-05,  3.485875e+01)
+(  1.100000e+08Hz,  3.676262e-05,  3.732606e+01)
+(  1.150000e+08Hz,  3.810642e-05,  1.692549e+01)
+(  1.200000e+08Hz,  3.029070e-05,  2.550717e+01)
+(  1.250000e+08Hz,  3.487484e-05,  2.715413e+01)
+(  1.300000e+08Hz,  2.499379e-05,  2.182873e+01)
+(  1.350000e+08Hz,  3.292004e-05,  5.500923e+01)
+(  1.400000e+08Hz,  3.211921e-05,  4.897639e+01)
+(  1.450000e+08Hz,  2.629412e-05,  6.329788e+01)
+(  1.500000e+08Hz,  3.401384e-05,  7.191590e+01)
+(  1.550000e+08Hz,  2.346747e-05,  6.686095e+01)
+(  1.600000e+08Hz,  3.578058e-05,  6.547454e+01)
+(  1.650000e+08Hz,  4.203403e-05,  7.111226e+01)
+(  1.700000e+08Hz,  3.537171e-05,  7.451414e+01)
+(  1.750000e+08Hz,  3.685415e-05,  8.400043e+01)
+(  1.800000e+08Hz,  4.943210e-05,  8.427708e+01)
+(  1.850000e+08Hz,  4.567999e-05,  8.029412e+01)
+(  1.900000e+08Hz,  4.199468e-05,  7.690725e+01)
+(  1.950000e+08Hz,  5.466954e-05,  8.924059e+01)
+(  2.000000e+08Hz,  4.984724e-05,  8.620001e+01)
+(  2.050000e+08Hz,  5.283277e-05,  8.616716e+01)
+(  2.100000e+08Hz,  7.217365e-05,  9.220576e+01)
+(  2.150000e+08Hz,  6.706232e-05,  1.024595e+02)
+(  2.200000e+08Hz,  7.565264e-05,  8.805385e+01)
+(  2.250000e+08Hz,  7.267434e-05,  8.521700e+01)
+(  2.300000e+08Hz,  8.675795e-05,  9.869204e+01)
+(  2.350000e+08Hz,  8.140090e-05,  9.329835e+01)
+(  2.400000e+08Hz,  8.791885e-05,  8.865244e+01)
+(  2.450000e+08Hz,  9.104700e-05,  9.238870e+01)
+(  2.500000e+08Hz,  9.180685e-05,  9.482364e+01)
+(  2.550000e+08Hz,  9.428158e-05,  9.446111e+01)
+(  2.600000e+08Hz,  9.616924e-05,  9.226094e+01)
+(  2.650000e+08Hz,  1.112903e-04,  9.362011e+01)
+(  2.700000e+08Hz,  1.065287e-04,  9.198875e+01)
+(  2.750000e+08Hz,  1.057089e-04,  9.612775e+01)
+(  2.800000e+08Hz,  1.131087e-04,  9.291153e+01)
+(  2.850000e+08Hz,  1.191611e-04,  8.793312e+01)
+(  2.900000e+08Hz,  1.217404e-04,  9.312551e+01)
+(  2.950000e+08Hz,  1.185733e-04,  9.260226e+01)
+(  3.000000e+08Hz,  1.343563e-04,  9.466472e+01)

* S21 FREQ MAG
 G0201 3 200 FREQ {V(100,3)}= MAG
+(  3.000000e+07Hz,  5.321457e-01,  1.022351e+02)
+(  3.500000e+07Hz,  4.684397e-01,  9.827927e+01)
+(  4.000000e+07Hz,  4.186946e-01,  9.564989e+01)
+(  4.500000e+07Hz,  3.772301e-01,  9.245323e+01)
+(  5.000000e+07Hz,  3.443293e-01,  8.979882e+01)
+(  5.500000e+07Hz,  3.147375e-01,  8.703622e+01)
+(  6.000000e+07Hz,  2.894496e-01,  8.415227e+01)
+(  6.500000e+07Hz,  2.678115e-01,  8.198645e+01)
+(  7.000000e+07Hz,  2.504682e-01,  7.965864e+01)
+(  7.500000e+07Hz,  2.341342e-01,  7.749214e+01)
+(  8.000000e+07Hz,  2.190155e-01,  7.523496e+01)
+(  8.500000e+07Hz,  2.056285e-01,  7.327571e+01)
+(  9.000000e+07Hz,  1.936189e-01,  7.104216e+01)
+(  9.500000e+07Hz,  1.834508e-01,  6.904891e+01)
+(  1.000000e+08Hz,  1.733033e-01,  6.702332e+01)
+(  1.050000e+08Hz,  1.635121e-01,  6.511117e+01)
+(  1.100000e+08Hz,  1.540905e-01,  6.337017e+01)
+(  1.150000e+08Hz,  1.464742e-01,  6.171494e+01)
+(  1.200000e+08Hz,  1.389056e-01,  5.954439e+01)
+(  1.250000e+08Hz,  1.323944e-01,  5.784160e+01)
+(  1.300000e+08Hz,  1.265147e-01,  5.602958e+01)
+(  1.350000e+08Hz,  1.194350e-01,  5.491020e+01)
+(  1.400000e+08Hz,  1.141950e-01,  5.294082e+01)
+(  1.450000e+08Hz,  1.097757e-01,  5.147858e+01)
+(  1.500000e+08Hz,  1.056237e-01,  4.970920e+01)
+(  1.550000e+08Hz,  9.994560e-02,  4.830626e+01)
+(  1.600000e+08Hz,  9.571632e-02,  4.670055e+01)
+(  1.650000e+08Hz,  9.205100e-02,  4.538800e+01)
+(  1.700000e+08Hz,  8.743610e-02,  4.437168e+01)
+(  1.750000e+08Hz,  8.456859e-02,  4.321042e+01)
+(  1.800000e+08Hz,  8.102795e-02,  4.186310e+01)
+(  1.850000e+08Hz,  7.805315e-02,  4.037338e+01)
+(  1.900000e+08Hz,  7.478890e-02,  3.923490e+01)
+(  1.950000e+08Hz,  7.211382e-02,  3.800876e+01)
+(  2.000000e+08Hz,  6.922176e-02,  3.696523e+01)
+(  2.050000e+08Hz,  6.702415e-02,  3.582486e+01)
+(  2.100000e+08Hz,  6.476645e-02,  3.464809e+01)
+(  2.150000e+08Hz,  6.203407e-02,  3.337112e+01)
+(  2.200000e+08Hz,  6.007216e-02,  3.255536e+01)
+(  2.250000e+08Hz,  5.786253e-02,  3.132656e+01)
+(  2.300000e+08Hz,  5.588886e-02,  3.044913e+01)
+(  2.350000e+08Hz,  5.424840e-02,  2.942165e+01)
+(  2.400000e+08Hz,  5.246140e-02,  2.846350e+01)
+(  2.450000e+08Hz,  5.067693e-02,  2.745963e+01)
+(  2.500000e+08Hz,  4.913372e-02,  2.622453e+01)
+(  2.550000e+08Hz,  4.731967e-02,  2.563040e+01)
+(  2.600000e+08Hz,  4.622701e-02,  2.447493e+01)
+(  2.650000e+08Hz,  4.451042e-02,  2.356846e+01)
+(  2.700000e+08Hz,  4.319200e-02,  2.297093e+01)
+(  2.750000e+08Hz,  4.204093e-02,  2.154799e+01)
+(  2.800000e+08Hz,  4.061803e-02,  2.120166e+01)
+(  2.850000e+08Hz,  3.959116e-02,  2.024367e+01)
+(  2.900000e+08Hz,  3.844131e-02,  1.933475e+01)
+(  2.950000e+08Hz,  3.727498e-02,  1.858393e+01)
+(  3.000000e+08Hz,  3.614529e-02,  1.773544e+01)
* S22 FREQ MAG
 G0202 3 200 FREQ {V(200,3)}= MAG
+(  3.000000e+07Hz,  4.166241e-03, -9.771645e+01)
+(  3.500000e+07Hz,  4.162145e-03, -1.022036e+02)
+(  4.000000e+07Hz,  4.212380e-03, -1.054321e+02)
+(  4.500000e+07Hz,  4.294872e-03, -1.083149e+02)
+(  5.000000e+07Hz,  4.416215e-03, -1.112460e+02)
+(  5.500000e+07Hz,  4.531364e-03, -1.137697e+02)
+(  6.000000e+07Hz,  4.656108e-03, -1.160094e+02)
+(  6.500000e+07Hz,  4.820477e-03, -1.179695e+02)
+(  7.000000e+07Hz,  4.973334e-03, -1.197537e+02)
+(  7.500000e+07Hz,  5.130683e-03, -1.217060e+02)
+(  8.000000e+07Hz,  5.287498e-03, -1.235360e+02)
+(  8.500000e+07Hz,  5.432451e-03, -1.248884e+02)
+(  9.000000e+07Hz,  5.569245e-03, -1.265172e+02)
+(  9.500000e+07Hz,  5.730884e-03, -1.280521e+02)
+(  1.000000e+08Hz,  5.886826e-03, -1.294027e+02)
+(  1.050000e+08Hz,  6.033779e-03, -1.307229e+02)
+(  1.100000e+08Hz,  6.165463e-03, -1.319830e+02)
+(  1.150000e+08Hz,  6.277770e-03, -1.336035e+02)
+(  1.200000e+08Hz,  6.394617e-03, -1.347672e+02)
+(  1.250000e+08Hz,  6.524809e-03, -1.359373e+02)
+(  1.300000e+08Hz,  6.658398e-03, -1.373172e+02)
+(  1.350000e+08Hz,  6.750719e-03, -1.380762e+02)
+(  1.400000e+08Hz,  6.862610e-03, -1.396121e+02)
+(  1.450000e+08Hz,  6.995520e-03, -1.406495e+02)
+(  1.500000e+08Hz,  7.101698e-03, -1.417670e+02)
+(  1.550000e+08Hz,  7.165864e-03, -1.426916e+02)
+(  1.600000e+08Hz,  7.277033e-03, -1.437838e+02)
+(  1.650000e+08Hz,  7.385409e-03, -1.448268e+02)
+(  1.700000e+08Hz,  7.461792e-03, -1.457056e+02)
+(  1.750000e+08Hz,  7.530923e-03, -1.467155e+02)
+(  1.800000e+08Hz,  7.628334e-03, -1.476559e+02)
+(  1.850000e+08Hz,  7.694339e-03, -1.486238e+02)
+(  1.900000e+08Hz,  7.763022e-03, -1.494994e+02)
+(  1.950000e+08Hz,  7.836687e-03, -1.503804e+02)
+(  2.000000e+08Hz,  7.899703e-03, -1.511415e+02)
+(  2.050000e+08Hz,  7.974555e-03, -1.520309e+02)
+(  2.100000e+08Hz,  8.067024e-03, -1.528532e+02)
+(  2.150000e+08Hz,  8.109528e-03, -1.536783e+02)
+(  2.200000e+08Hz,  8.168684e-03, -1.544369e+02)
+(  2.250000e+08Hz,  8.221836e-03, -1.552455e+02)
+(  2.300000e+08Hz,  8.253415e-03, -1.559105e+02)
+(  2.350000e+08Hz,  8.324412e-03, -1.567422e+02)
+(  2.400000e+08Hz,  8.350071e-03, -1.574825e+02)
+(  2.450000e+08Hz,  8.402524e-03, -1.582804e+02)
+(  2.500000e+08Hz,  8.444352e-03, -1.589620e+02)
+(  2.550000e+08Hz,  8.486853e-03, -1.594376e+02)
+(  2.600000e+08Hz,  8.514398e-03, -1.601644e+02)
+(  2.650000e+08Hz,  8.550511e-03, -1.608799e+02)
+(  2.700000e+08Hz,  8.590351e-03, -1.613536e+02)
+(  2.750000e+08Hz,  8.635467e-03, -1.621256e+02)
+(  2.800000e+08Hz,  8.667476e-03, -1.627684e+02)
+(  2.850000e+08Hz,  8.696071e-03, -1.634458e+02)
+(  2.900000e+08Hz,  8.723315e-03, -1.639983e+02)
+(  2.950000e+08Hz,  8.771450e-03, -1.647768e+02)
+(  3.000000e+08Hz,  8.781091e-03, -1.653856e+02)

.ENDS * MRF101AN-BN-SP
