* C:\Users\ajsou\Nextcloud\NMR Work\LTSpice\mrf101an_sparam_frequency.asc
R1 N024 N029 27
C1 N029 N028 100n
R2 N005 N004 47k
C2 0 N004 .1µ
R3 N024 N017 400
C3 0 N011 100n
R4 N024 N011 51
C4 N014 N017 100n
L1 N025 N024 47n
C5 0 N005 .1µ
C6 N006 N005 1n
C8 N006 N005 .1µ
C10 Vout_A N020 100n
C11 0 N014 220p
R8 P001 0 2k
L2 N014 N020 1µ
L3 N005 N014 1µ
V1 N028 0 AC 1 Rser=50
V2 N005 0 50
R5 0 Vout_A 50
R6 N004 N011 6.25k
R7 N011 P001 3.75k
C9 Vout_A N020 100n
R12 N022 N027 27
C12 N027 N026 100n
R13 N002 N001 47k
C13 0 N001 .1µ
R14 N022 N016 400
C14 0 N010 100n
R15 N022 N010 51
C15 N013 N016 100n
L4 N023 N022 47n
C16 0 N002 .1µ
C17 N003 N002 1n
C19 N003 N002 .1µ
C20 Vout_B N019 100n
C21 0 N013 220p
R16 P002 0 2k
L5 N013 N019 3.3µ
L6 N002 N013 3.3µ
V3 N026 0 AC 1 Rser=50
V4 N002 0 50
R17 0 Vout_B 50
R18 N001 N010 6.25k
R19 N010 P002 3.75k
C22 Vout_B N019 100n
R45 N030 N032 27
C45 N032 Vin 100n
R46 N008 N007 47k
R47 N030 N018 400
R48 N030 N012 51
C48 N015 N018 100n
L13 N031 N030 47n
C53 Vout_Original N021 100n
R49 P003 0 2k
L14 N015 N021 3.3µ
L15 N008 N015 3.3µ
V9 Vin 0 AC 1 Rser=50
V10 N008 0 50
R50 0 Vout_Original 50
R51 N007 N012 6.25k
R52 N012 P003 3.75k
D1 P004 N004 UMZ5_1N
D2 P004 0 1N4148
D5 P005 0 1N4148
D6 P005 N001 UMZ5_1N
C67 N005 0 330µ
C7 N002 0 330µ
XU1 N031 N015 0 MRF101AN-BN-SP
XU2 N025 N014 0 MRF101AN-BN-SP
XU3 N023 N013 0 MRF101AN-BN-SP
C18 0 N012 100n
C23 0 N008 .1µ
C24 N009 N008 1n
C25 N009 N008 .1µ
C26 N008 0 330µ
C27 0 N007 .1µ
D3 P006 N007 UMZ5_1N
D4 P006 0 1N4148
C28 Vout_Original N021 100n
C29 0 N015 220p
.model D D
.lib C:\Users\ajsou\AppData\Local\LTspice\lib\cmp\standard.dio
k2 L2 L3 1
k3 L5 L6 .93
k1 L15 L14 1
.ac dec 20 1000000 100000000
.inc MRF101AN-BN-SP.lib
* A Frequency
.lib MRF101AN-BN-SP.lib
.backanno
.end
