* C:\Users\ajsou\Nextcloud\NMR Work\LTSpice\mrf101an_sparam_impedance.asc
R1 N015 N019 27
C1 N019 Vin1 100n
R2 N002 N001 47k
C2 0 N001 .1µ
R3 N015 N009 400
C3 0 N007 100n
R4 N015 N007 51
C4 N013 N009 100n
L1 N016 N015 47n
C5 0 N002 .1µ
C6 N003 N002 1n
C8 N003 N002 .1µ
C10 Vout_A N011 100n
C11 0 N013 220p
R8 P001 0 2k
L2 N013 N011 3.3µ
L3 N002 N013 3.3µ
V2 N002 0 50
R5 0 Vout_A 50
R6 N001 N007 6.25k
R7 N007 P001 3.75k
C9 Vout_A N011 100n
D1 P002 N001 UMZ5_1N
D2 P002 0 1N4148
C67 N002 0 330µ
XU2 N016 N013 0 MRF101AN-BN-SP
I1 0 Vin1 AC 1
R9 N017 N020 27
C7 N020 Vin2 100n
R10 N005 N004 47k
C12 0 N004 .1µ
R11 N017 N010 400
C13 0 N008 100n
R12 N017 N008 51
C14 N014 N010 100n
L4 N018 N017 47n
C15 0 N005 .1µ
C16 N006 N005 1n
C17 N006 N005 .1µ
C18 Vout_B N012 100n
C19 0 N014 220p
R13 P003 0 2k
L5 N014 N012 3.3µ
L6 N005 N014 3.3µ
V1 N005 0 50
R15 N004 N008 6.25k
R16 N008 P003 3.75k
C20 Vout_B N012 100n
D3 P004 N004 UMZ5_1N
D4 P004 0 1N4148
C21 N005 0 330µ
XU1 N018 N014 0 MRF101AN-BN-SP
I2 0 Vout_B AC 1
R14 N035 N039 27
C22 N039 Vin3 100n
R17 N022 N021 47k
C23 0 N021 .1µ
R18 N035 N029 400
C24 0 N027 100n
R19 N035 N027 51
C25 N033 N029 100n
L7 N036 N035 47n
C26 0 N022 .1µ
C27 N023 N022 1n
C28 N023 N022 .1µ
C29 Vout_C N031 100n
C30 0 N033 220p
R20 P005 0 2k
L8 N033 N031 1µ
L9 N022 N033 1µ
V3 N022 0 50
R21 0 Vout_C 50
R22 N021 N027 6.25k
R23 N027 P005 3.75k
C31 Vout_C N031 100n
D5 P006 N021 UMZ5_1N
D6 P006 0 1N4148
C32 N022 0 330µ
XU3 N036 N033 0 MRF101AN-BN-SP
I3 0 Vin3 AC 1
R24 N037 N040 27
C33 N040 Vin4 100n
R25 N025 N024 47k
C34 0 N024 .1µ
R26 N037 N030 400
C35 0 N028 100n
R27 N037 N028 51
C36 N034 N030 100n
L10 N038 N037 47n
C37 0 N025 .1µ
C38 N026 N025 1n
C39 N026 N025 .1µ
C40 Vout_D N032 100n
C41 0 N034 220p
R28 P007 0 2k
L11 N034 N032 1µ
L12 N025 N034 1µ
V4 N025 0 50
R29 N024 N028 6.25k
R30 N028 P007 3.75k
C42 Vout_D N032 100n
D7 P008 N024 UMZ5_1N
D8 P008 0 1N4148
C43 N025 0 330µ
XU4 N038 N034 0 MRF101AN-BN-SP
I4 0 Vout_D AC 1
R31 N055 N059 27
C44 N059 Vin5 100n
R32 N042 N041 47k
C45 0 N041 .1µ
R33 N055 N049 400
C46 0 N047 100n
R34 N055 N047 51
C47 N053 N049 100n
L13 N056 N055 47n
C48 0 N042 .1µ
C49 N043 N042 1n
C50 N043 N042 .1µ
C51 Vout_E N051 100n
C52 0 N053 220p
R35 P009 0 2k
L14 N053 N051 .56µ
L15 N042 N053 .56µ
V5 N042 0 50
R36 0 Vout_E 50
R37 N041 N047 6.25k
R38 N047 P009 3.75k
C53 Vout_E N051 100n
D9 P010 N041 UMZ5_1N
D10 P010 0 1N4148
C54 N042 0 330µ
XU5 N056 N053 0 MRF101AN-BN-SP
I5 0 Vin5 AC 1
R39 N057 N060 27
C55 N060 Vin6 100n
R40 N045 N044 47k
C56 0 N044 .1µ
R41 N057 N050 400
C57 0 N048 100n
R42 N057 N048 51
C58 N054 N050 100n
L16 N058 N057 47n
C59 0 N045 .1µ
C60 N046 N045 1n
C61 N046 N045 .1µ
C62 Vout_F N052 100n
C63 0 N054 220p
R43 P011 0 2k
L17 N054 N052 .56µ
L18 N045 N054 .56µ
V6 N045 0 50
R44 N044 N048 6.25k
R45 N048 P011 3.75k
C64 Vout_F N052 100n
D11 P012 N044 UMZ5_1N
D12 P012 0 1N4148
C65 N045 0 330µ
XU6 N058 N054 0 MRF101AN-BN-SP
I6 0 Vout_F AC 1
.model D D
.lib C:\Users\ajsou\AppData\Local\LTspice\lib\cmp\standard.dio
k1 L2 L3 1
.ac dec 20 1000000 100000000
.inc MRF101AN-BN-SP.lib
k2 L5 L6 1
k3 L8 L9 1
k4 L11 L12 1
* A Input
* A Output
* B Input
* B Output
k5 L14 L15 1
k6 L17 L18 1
* C Input
* C Output
.lib MRF101AN-BN-SP.lib
.backanno
.end
